US07906517B2
2-Benzyloxy-5-trifluoromethoxy-benzaldehyde (1.40 g) is dissolved in ethanol (30 ml) and thereto is added sodium borohydride (189 mg) and the mixture is stirred at room temperature for 30 minutes. To the reaction solution are added aqueous ammonium chloride solution and ethyl acetate and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→4:1) to give (2-benzyloxy-5-trifluoromethoxy-phenyl)methanol (1.10 g).

reactant | 2-Benzyloxy-5-trifluoromethoxy-benzaldehyde | 1.40 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C15H11F3O3
reactant | sodium borohydride | 189 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (2-benzyloxy-5-trifluoromethoxy-phenyl)methanol | 1.10 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC(F)(F)F)CO | C15H13F3O3
